US05716944
7-Cyclohexyl-3,4-dihydronaphthalene-2-carboxamide and diethyl 2-aminobenzylphosphonate were reacted in the same manner as in Example 3 to yield 7-cyclohexyl-N-(2-diethoxyphosphorylmethylphenyl)-3,4-dihydronaphthalene-2-carboxamide (53%), which was then recrystallized from ethanol-water to yield colorless crystals having a melting point of 102°-103° C.

reactant | 7-Cyclohexyl-3,4-dihydronaphthalene-2-carboxamide | C1(CCCCC1)C1=CC=C2CCC(=CC2=C1)C(=O)N | C17H21NO
reactant | diethyl 2-aminobenzylphosphonate | NC1=C(CP(OCC)(OCC)=O)C=CC=C1 | C11H18NO3P
product | 7-cyclohexyl-N-(2-diethoxyphosphorylmethylphenyl)-3,4-dihydronaphthalene-2-carboxamide | 53% | C1(CCCCC1)C1=CC=C2CCC(=CC2=C1)C(=O)NC1=C(C=CC=C1)CP(=O)(OCC)OCC | C28H36NO4P
